US05232931
A mixture of 1.92 g of 5-aminomethyl-3-phenyloxazolidin-2-one [obtainable by reaction of 5-chloromethyl-3-phenyloxazolidin-2-one with potassium phthalimide and subsequent hydrolysis] and 2.63 g of 1,5-dichloro-3-(3,4-methylenedioxyphenyl)pentane in 40 ml of acetone and 40 ml of water is boiled for 24 hours and worked up as usual, giving 3-phenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one.

reactant | 5-aminomethyl-3-phenyloxazolidin-2-one | 1.92 g | NCC1CN(C(O1)=O)C1=CC=CC=C1 | C10H12N2O2
reactant | 1,5-dichloro-3-(3,4-methylenedioxyphenyl)pentane | 2.63 g | ClCCC(CCCl)C1=CC2=C(C=C1)OCO2 | C12H14Cl2O2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | 3-phenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one | C1(=CC=CC=C1)N1C(OC(C1)CN1CCC(CC1)C1=CC2=C(C=C1)OCO2)=O | C22H24N2O4
